US07781443B2
tert-Butyl acrylate (4.4 ml) is dissolved in methanol (5 ml), and thereto is added 2-methoxyethylamine (3.1 ml). The mixture is stirred at room temperature for 3 hours. The reaction solution is concentrated under reduced pressure. The resulting residue is purified by distillation under reduced pressure to give tert-butyl 3-(2-methoxyethylamino)-propionate (4.61 g). Boiling point 98.0-102.0° C. (5.8 mmHg), MS (m/z): 204 [M+H]+.

reactant | tert-Butyl acrylate | 4.4 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | 2-methoxyethylamine | 3.1 ml | COCCN | C3H9NO
solvent | methanol | 5 ml | CO | CH4O
product | tert-butyl 3-(2-methoxyethylamino)-propionate | 4.61 g | COCCNCCC(=O)OC(C)(C)C | C10H21NO3
